* Created by KLayout

* cell INV_X16
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT INV_X16 Y A vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS_mst
M$4 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS_mst
M$5 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $6 r0 *1 26.1,44.8 PMOS_mst
M$6 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $7 r0 *1 30.1,44.8 PMOS_mst
M$7 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $8 r0 *1 34.1,44.8 PMOS_mst
M$8 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $9 r0 *1 38.1,44.8 PMOS_mst
M$9 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $10 r0 *1 42.1,44.8 PMOS_mst
M$10 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $11 r0 *1 46.1,44.8 PMOS_mst
M$11 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $12 r0 *1 50.1,44.8 PMOS_mst
M$12 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $13 r0 *1 54.1,44.8 PMOS_mst
M$13 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $14 r0 *1 58.1,44.8 PMOS_mst
M$14 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $15 r0 *1 62.1,44.8 PMOS_mst
M$15 Y A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $16 r0 *1 66.1,44.8 PMOS_mst
M$16 vdd A Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $17 r0 *1 6.1,6.8 NMOS_mst
M$17 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $18 r0 *1 10.1,6.8 NMOS_mst
M$18 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $19 r0 *1 14.1,6.8 NMOS_mst
M$19 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $20 r0 *1 18.1,6.8 NMOS_mst
M$20 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $21 r0 *1 22.1,6.8 NMOS_mst
M$21 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $22 r0 *1 26.1,6.8 NMOS_mst
M$22 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $23 r0 *1 30.1,6.8 NMOS_mst
M$23 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $24 r0 *1 34.1,6.8 NMOS_mst
M$24 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $25 r0 *1 38.1,6.8 NMOS_mst
M$25 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $26 r0 *1 42.1,6.8 NMOS_mst
M$26 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $27 r0 *1 46.1,6.8 NMOS_mst
M$27 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $28 r0 *1 50.1,6.8 NMOS_mst
M$28 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $29 r0 *1 54.1,6.8 NMOS_mst
M$29 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $30 r0 *1 58.1,6.8 NMOS_mst
M$30 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $31 r0 *1 62.1,6.8 NMOS_mst
M$31 Y A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $32 r0 *1 66.1,6.8 NMOS_mst
M$32 gnd A Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS INV_X16
